* TL072 Dual Op-Amp Subcircuit for ngspice
.include TL071.lib
.subckt TL074 1out 1in- 1in+ vcc- 2in+ 2in- 2out 3out 3in- 3in+ vcc+ 4in+ 4in- 4out
XU1A 1in+ 1in- vcc+ vcc- 1out TL071
XU1B 2in+ 2in- vcc+ vcc- 2out TL071
XU1C 3in+ 3in- vcc+ vcc- 3out TL071
XU1D 4in+ 4in- vcc+ vcc- 4out TL071
.ends
